US05821245
Trifluoromethanesulfonic acid 8-(4-methylpiperazin-1-yl)naphthalen-2-yl ester
To a stirred suspension of 8-(4-methylpiperazin-1-yl)naphthalen-2-ol (5.0 g, 20 mmol) in anhydrous methylene chloride (50 mL), cooled to -78° C. was added triethylamine (20 mL) followed by trifluoromethanesulfonic anhydride (3.9 mL). After a further hr at -78° C., the cooling bath was removed, silica gel (4.5 g) was added and the solvent was removed in vacuo. The resulting slurry was added to a column of 400 g of silica gel and the product was eluted with an ethyl acetate:methanol gradient (100:0 to 80:20) . The product fractions were concentrated in vacuo to provide the title product, 4.32 g.

reactant | 8-(4-methylpiperazin-1-yl)naphthalen-2-ol | 20 mmol, 5.0 g | CN1CCN(CC1)C=1C=CC=C2C=CC(=CC12)O | C15H18N2O
reactant | triethylamine | 20 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 3.9 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | Trifluoromethanesulfonic acid 8-(4-methylpiperazin-1-yl)naphthalen-2-yl ester | CN1CCN(CC1)C=1C=CC=C2C=CC(=CC12)OS(=O)(=O)C(F)(F)F | C16H17F3N2O3S
